US05470896
20 g (0.069 mol) of sodium 2,4,6-tris(dimethylaminomethyl)phenolate and 57.1 g of 1-butanol are placed in a 100 ml round-bottomed flask having a magnetic stirrer, and then 8.70 g (0.023 mol) of aluminium nitrate are added. The solution is stirred for 2 hours, and then the precipitated sodium nitrate is filtered off. A clear, brown 25% accelerator solution of aluminium tris(2,4,6-tris(dimethylaminomethyl)phenolate) in 1-butanol is obtained.

reactant | sodium 2,4,6-tris(dimethylaminomethyl)phenolate | 0.069 mol, 20 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].[Na+]
reactant | aluminium nitrate | 0.023 mol, 8.70 g | [N+](=O)([O-])[O-].[Al+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | 1-butanol | 57.1 g | C(CCC)O | C4H10O
product | aluminium tris(2,4,6-tris(dimethylaminomethyl)phenolate) | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].[Al+3] | InChI=1S/3C15H27N3O.Al/c3*1-16(2)9-12-7-13(10-17(3)4)15(19)14(8-12)11-18(5)6;/h3*7-8,19H,9-11H2,1-6H3;/q;;;+3/p-3
